US06331640B1
Trifluoroacetic acid (20 mL) was added to a solution of N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3-[[(1,1-dimethylethoxy)carbonyl]amino]-L-alanine, methyl ester (800 mg, 1.54 mmol) in dichloromethane (20 mL). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated, azeotroped three times with dichloromethane/hexanes, and then held under high vacuum for 35 min. 1 M HCl (4.6 mL, 4.6 mmol) was added, along with acetonitrile (4 mL) and the mixture was freeze-dried overnight to give crude 3-amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-L-alanine, methyl ester hydrochloride (0.85 g, 120% of the theoretical amount).

reactant | Trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3-[[(1,1-dimethylethoxy)carbonyl]amino]-L-alanine, methyl ester | 1.54 mmol, 800 mg | ClC1=C(C(=O)N[C@@H](CNC(=O)OC(C)(C)C)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)C | C25H30ClN3O7
reactant | HCl | 4.6 mmol, 1 M, 4.6 mL | Cl | ClH
reactant | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-L-alanine, methyl ester hydrochloride | Cl.NC[C@H](NC(C1=C(C=C(C=C1C)C(=O)NCC1=CC(=CC=C1)O)Cl)=O)C(=O)OC | InChI=1S/C20H22ClN3O5.ClH/c1-11-6-13(18(26)23-10-12-4-3-5-14(25)7-12)8-15(21)17(11)19(27)24-16(9-22)20(28)29-2;/h3-8,16,25H,9-10,22H2,1-2H3,(H,23,26)(H,24,27);1H/t16-;/m0./s1
